US07341828B2
Synthesis of 1,2-propylene Glycol bis(2-mercaptoisobutyrate) (PGMIB)
In a 200-ml eggplant-shaped flask were charged 4.57 g (60 mmol) of 1,2-propylene glycol, 15.86 g (132 mmol) of 2-mercaptoisobutanoic acid, 1.20 g (6.3 mmol) of p-toluenesulfonic acid monohydrate, and 100 g of methylene chloride (manufactured by Junsei Chemicals Co., Ltd.), and a Soxhlet extractor which was loaded with Molecular sieves 4A (manufactured by UNION SHOWA K.K.) and a condenser tube were equipped thereto. While the contents being stirred, they were heated at an oil bath temperature of 70° C. After the reaction was performed for 30 hours, the reaction mixture was neutralized with 200 ml of an aqueous 10% sodium hydrogen carbonate. Further, the reaction mixture was washed with deionized water three times, and then dehydrated and dried over anhydrous magnesium sulfate. Then, the methylene chloride was distilled off and the residue was subjected to column chromatography with silica gel to purify PGMIB. The silica gel used was Wako Gel C-200, and n-hexane/ethyl acetate=6/1 (by volume ratio) was used as an elution solvent. The PGMIB obtained by the purification was a colorless transparent liquid and the yield was 4.00 g (24%). The PGMIB had a compositional formula of C11H20O4S2 and a molecular weight of 280.41.

reactant | 1,2-propylene glycol | 60 mmol, 4.57 g | C(C(C)O)O | C3H8O2
reactant | 2-mercaptoisobutanoic acid | 132 mmol, 15.86 g | SC(C(=O)O)(C)C | C4H8O2S
reactant | p-toluenesulfonic acid monohydrate | 6.3 mmol, 1.20 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 100 g | C(Cl)Cl | CH2Cl2
product | 1,2-propylene Glycol bis(2-mercaptoisobutyrate) | SC(C(=O)OCC(C)OC(C(C)(C)S)=O)(C)C | C11H20O4S2
